### PR TITLE
feat(MeasureTheory): uniformly distributed outer regular measures in a second countable pseudometric space are unique up to a finite constant

### PR DESCRIPTION
**Pull request by CoolRmal**
In this PR we define uniformly distributed measures and prove [Christensen's Lemma](https://en.wikipedia.org/wiki/Spherical_measure), which says that uniformly distributed outer regular measures in a second countable pseudometric space are unique up to a finite constant.

A classical application of Christensen's Lemma is to show that the restriction of the `n - 1`-dimensional
Hausdorff measure onto an `n`-dimensional sphere coincides with the spherical measure. This will be done in another PR.

---

- [x] depends on: #37311
- [x] depends on: #37312
- [x] depends on: #37313

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 1]
```diff
@@ -0,0 +1,192 @@
...
+
+import Mathlib.MeasureTheory.Measure.Prod
+import Mathlib.Order.Filter.ENNReal
+
+/-!
+# Uniformly distributed measures
+
+In this file we define uniformly distributed measures and prove Christensen's Lemma. As an
+application, we prove that the restriction of the `n - 1`-dimensional Hausdorff measure onto an
+`n`-dimensional sphere coincides with the spherical measure.
```
Comment (wwylele) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]: You probably want to turn the "As an application ..." part into a TODO.

As a side question, is the Hausdorff measure here the [MeasureTheory.Measure.hausdorffMeasure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Hausdorff.html#MeasureTheory.Measure.hausdorffMeasure), or [MeasureTheory.Measure.euclideanHausdorffMeasure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Euclidean/Volume/Measure.html#MeasureTheory.Measure.euclideanHausdorffMeasure)?

Comment (CoolRmal) [reply Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]: It is probably the second one. So we probably also need to compute [addHaarScalarFactor](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Haar/Unique.html#MeasureTheory.Measure.addHaarScalarFactor), which I believe needs the coarea formula.

I have some partial progress in this branch: https://github.com/CoolRmal/mathlib4/tree/spherical-measure

Comment (wwylele) [reply Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]: If it is the same area/coarea formula I know of (Theorem 3.8 and 3.10 in *Measure Theory and Fine Properties of Functions*), I am also working on it. Currently I am trying to get the definition of Jacobian in in #37295

Comment (wwylele) [reply Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]: (I haven't made much progress beyond that PR, though, so feel free to continue whatever you are working on!)

Comment (CoolRmal) [reply Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]: We can formalize the formula together if you are happy with collaboration.

Besides the coarea formula, in order to apply this lemma, one also needs to show that the `n-1`-dimensional Hausdorff measure restricted to  the sphere [isOpenPosMeasure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/OpenPos.html#LE.le.isOpenPosMeasure) and [IsLocallyFiniteMeasure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Typeclasses/Finite.html#MeasureTheory.IsLocallyFiniteMeasure). One probably needs to do it more generally for manifolds. We can also work on this if you are interested.

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 2]
```diff
@@ -0,0 +1,195 @@
...
+  in chapter 3 of [*Geometry of sets and measures in {E}uclidean spaces*][mattila1995].
+
+## TODO
+
+Show that the restriction of the `n - 1`-dimensional Hausdorff measure onto an `n`-dimensional
+sphere coincides with the spherical measure.
+
+-/
+
+@[expose] public section
```
Comment (wwylele) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]:
```suggestion
public section
```
`@[expose]` is only useful for `def`, and I believe even for those, it is recommended to add it to individual `def` when needed

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 3]
```diff
@@ -0,0 +1,195 @@
...
+  _ = liminf (fun r => (ν (ball x r))⁻¹ * ∫⁻ a in U, ν (U ∩ ball a r) ∂μ) (𝓝[>] 0) := by
+    apply liminf_congr
+    filter_upwards [self_mem_nhdsWithin] with r hr
+    rw [← lintegral_const_mul']
+    · grind [fun a => eq_measure (μ := ν) hr a]
+    · exact ENNReal.inv_ne_top.2 (zero_lt hr x).ne.symm
+  -- apply Fubini
+  _ = liminf (fun r => (ν (ball x r))⁻¹ * ∫⁻ a in U, μ (U ∩ ball a r) ∂ν) (𝓝[>] 0) := by
+    congr with r
+    have : ∫⁻ a in U, ν (U ∩ ball a r) ∂μ =  ∫⁻ a in U, μ (U ∩ ball a r) ∂ν := calc
```
Comment (wwylele) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]:
```suggestion
    have : ∫⁻ a in U, ν (U ∩ ball a r) ∂μ = ∫⁻ a in U, μ (U ∩ ball a r) ∂ν := calc
```

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 4]
```diff
@@ -0,0 +1,195 @@
...
+        rw [ENNReal.inv_liminf]
+        have : limsup (fun r ↦ (ν (ball hX.some r))⁻¹ * μ (ball hX.some r)) (𝓝[>] 0) =
+          limsup (fun i ↦ ((μ (ball hX.some i))⁻¹ * ν (ball hX.some i))⁻¹) (𝓝[>] 0) := by
+          apply limsup_congr
+          filter_upwards [self_mem_nhdsWithin] with a ha
+          rw [ENNReal.mul_inv, mul_comm, inv_inv]
+          · exact Or.inr (lt_top ha hX.some).ne
+          · exact Or.inr (zero_lt ha hX.some).ne.symm
+        congr
+      _ ≤ (μ U) := by
```
Comment (wwylele) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]:
```suggestion
      _ ≤ μ U := by
```

**Review by wwylele — COMMENTED** [review]
Just some comments on code style

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean (hunk 2 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]: Ok I though it is needed for class. Thx for pointing this out!

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]: Yeah, I am glad to collab. Is there a zulip thread for what you are working on? We can move the discussion there to avoid making this PR too long.

Comment (CoolRmal) [reply Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]: No, we can create a thread for it.

Comment (wwylele) [reply Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean]: I created [#mathlib4 > Hausdorff measure, spherical measure, and (co)area formula](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Hausdorff.20measure.2C.20spherical.20measure.2C.20and.20.28co.29area.20formula/with/593246709)

File: Mathlib/MeasureTheory/Measure/Regular.lean [hunk 5]
```diff
@@ -409,6 +409,10 @@ theorem comap' {mβ : MeasurableSpace β} [TopologicalSpace β] (μ : Measure β
     rw [f_me.comap_apply]
     exact (measure_mono (image_preimage_subset _ _)).trans_lt hμU
 
+theorem subtype (μ : Measure α) [OuterRegular μ] {s : Set α} (hU : MeasurableSet s) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Regular.lean:412]:
```suggestion
protected theorem subtype (μ : Measure α) [OuterRegular μ] {s : Set α} (hU : MeasurableSet s) :
```

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean:1]: Can you add a `Main definition` section in the module docstring with the definition please?

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 6]
```diff
@@ -0,0 +1,195 @@
...
+Authors: Yongxi Lin
+-/
+module
+
+public import Mathlib.MeasureTheory.Constructions.BorelSpace.Metric
+public import Mathlib.MeasureTheory.Integral.Lebesgue.Add
+public import Mathlib.MeasureTheory.Measure.Regular
+
+import Mathlib.MeasureTheory.Measure.Prod
+import Mathlib.Order.Filter.ENNReal
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean:13]:
```suggestion
public import Mathlib.MeasureTheory.Measure.Regular

import Mathlib.MeasureTheory.Constructions.BorelSpace.Metric
import Mathlib.MeasureTheory.Integral.Lebesgue.Add
import Mathlib.MeasureTheory.Measure.Prod
import Mathlib.Order.Filter.ENNReal
```

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 7]
```diff
@@ -0,0 +1,195 @@
...
+
+/-!
+# Uniformly distributed measures
+
+In this file we define uniformly distributed measures and prove Christensen's Lemma.
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean:18]: Can you add somewhere what Christensen's lemma is? For instance `**Christensen's lemma:**` before the description of `UniformlyDistributed.eq_smul`.

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 8]
```diff
@@ -0,0 +1,195 @@
...
+## TODO
+
+Show that the restriction of the `n - 1`-dimensional Hausdorff measure onto an `n`-dimensional
+sphere coincides with the spherical measure.
+
+-/
+
+public section
+
+open Filter MeasureTheory Measure Metric Set
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean:35]:
```suggestion
open Filter MeasureTheory Metric Set
```

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 9]
```diff
@@ -0,0 +1,195 @@
...
+namespace MeasureTheory
+
+/-- At a point `x` in an open set `U`, if `μ` is nonzero and bounded for small balls centered at
+`x`, then the density of `U` at `x` is `1`. -/
+lemma exists_density_of_mem_open (hU : IsOpen U) (hx : x ∈ U)
+    (μ : Measure X) (hμz : ∀ᶠ a in 𝓝[>] 0, 0 < μ (ball x a))
+    (hμt : ∀ᶠ a in 𝓝[>] 0, μ (ball x a) < ∞) :
+    Tendsto (fun r => μ (U ∩ ball x r) / μ (ball x r)) (𝓝[>] 0) (𝓝 1) := by
+  apply EventuallyEq.tendsto
+  obtain ⟨r, hr⟩ := Metric.isOpen_iff.1 hU x hx
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean:50]:
```suggestion
  obtain ⟨r, hr⟩ := isOpen_iff.1 hU x hx
```

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 10]
```diff
@@ -0,0 +1,195 @@
...
+  filter_upwards [Ioo_mem_nhdsGT hr.1, hμz, hμt] with a ha hz ht
+  rw [Set.inter_eq_right.2 ((ball_subset_ball ha.2.le).trans hr.2),
+    ENNReal.div_self hz.ne.symm ht.ne]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean:53]:
```suggestion
    ENNReal.div_self hz.ne' ht.ne]
```

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 11]
```diff
@@ -0,0 +1,195 @@
...
+
+open scoped ENNReal NNReal Topology
+
+variable {X : Type*} [PseudoMetricSpace X] [MeasurableSpace X] {μ ν : Measure X} {U : Set X} {x : X}
+
+namespace MeasureTheory
+
+/-- At a point `x` in an open set `U`, if `μ` is nonzero and bounded for small balls centered at
+`x`, then the density of `U` at `x` is `1`. -/
+lemma exists_density_of_mem_open (hU : IsOpen U) (hx : x ∈ U)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean:45]: This does not follow the naming convention. Maybe
```suggestion
lemma IsOpen.tendsto_measure_inter_div_one (hU : IsOpen U) (hx : x ∈ U)
```
Also this lemma does not seem to belong here. To me it kind of echoes [VitaliFamily.ae_tendsto_measure_inter_div_of_measurableSet](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Covering/Differentiation.html#VitaliFamily.ae_tendsto_measure_inter_div_of_measurableSet). As you use it only once, I'd say either find it a better place, or inline the proof.

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 12]
```diff
@@ -0,0 +1,195 @@
...
+  rw [Set.inter_eq_right.2 ((ball_subset_ball ha.2.le).trans hr.2),
+    ENNReal.div_self hz.ne.symm ht.ne]
+
+namespace Measure
+
+/-- A measure `μ` is uniformly distributed if the measure of a ball depends only on its radius. -/
+class UniformlyDistributed (μ : Measure X) : Prop where
+  eq_measure : ∀ ⦃r : ℝ⦄, 0 < r → ∀ x y, μ (ball x r) = μ (ball y r)
+  zero_lt : ∀ ⦃r : ℝ⦄, 0 < r → ∀ x, 0 < μ (ball x r)
+  lt_top : ∀ ⦃r : ℝ⦄, 0 < r → ∀ x, μ (ball x r) < ⊤
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean:61]:
```suggestion
  measure_ball_eq : ∀ ⦃r : ℝ⦄, 0 < r → ∀ x y, μ (ball x r) = μ (ball y r)
  zero_lt_measure_ball : ∀ ⦃r : ℝ⦄, 0 < r → ∀ x, 0 < μ (ball x r)
  measure_ball_lt_top : ∀ ⦃r : ℝ⦄, 0 < r → ∀ x, μ (ball x r) < ⊤
```

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 13]
```diff
@@ -0,0 +1,195 @@
...
+  · simp
+
+private lemma le_smul (μ ν : Measure X) [OpensMeasurableSpace X]
+    [SecondCountableTopology X] [UniformlyDistributed μ] [UniformlyDistributed ν] (hU : IsOpen U)
+    (hb : Bornology.IsBounded U) (x : X) :
+    μ U ≤ (liminf (fun r => (ν (ball x r))⁻¹ * μ (ball x r)) (𝓝[>] 0)) • (ν U) :=
+  have : IsFiniteMeasure (ν.restrict U) :=
+    isFiniteMeasure_restrict.2 (measure_ne_top_of_isBounded hb)
+  have hum (r) : Measurable (Function.uncurry fun x => (ball x r).indicator
+    fun b => (1 : ℝ≥0∞)) := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean:81]:
```suggestion
      fun b => (1 : ℝ≥0∞)) := by
```

File: Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean [hunk 14]
```diff
@@ -0,0 +1,195 @@
...
+    have : (Function.uncurry fun a => (ball a r).indicator fun b => 1) =
+      {p : X × X | dist p.1 p.2 < r}.indicator fun p => (1 : ℝ≥0∞) := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/UniformlyDistributed.lean:83]:
```suggestion
        {p : X × X | dist p.1 p.2 < r}.indicator fun p => (1 : ℝ≥0∞) := by
```

**Review by EtienneC30 — COMMENTED** [review]
Christensen's paper gives a more general definition of uniformly distributed measures, and a more general result it seems. Why not use this one?
